US05550121
(2S,4R)-N-tert-Butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[1-hydroxy-2-(N-methylcarbamoyl)ethyl]pyrrolidine
Under a nitrogen atmosphere, a solution of N-methylacetamide (116 μl, 1.52 mmol) in tetrahydrofuran (2 ml) and then hexamethylphosphoric triamide (555 μl, 3.19 mmol) were dropwise added at -78° C. to a solution comprising 2.0M lithium diisopropylamide--tetrahydrofuran (1.6 ml, 3.19 mmol) and tetrahydrofuran (10 ml). The mixture was stirred at -78° C. for 30 minutes. Then, a solution of (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxyprolinal (500 mg, 1.52 mmol) in tetrahydrofuran (2 ml) was dropwise added. The reaction mixture was stirred at room temperature for 2 h. Water was added to the reaction mixture. Then, the reaction mixture was poured into a mixture of ethyl acetate-water. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo. The obtained oily residue was subjected to silica gel column chromatography (chloroform--methanol=20:1) to give the title compound (158 mg, yield: 25.9%).

reactant | N-methylacetamide | 1.52 mmol, 116 μl | CNC(C)=O | C3H7NO
reactant | hexamethylphosphoric triamide | 3.19 mmol, 555 μl | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | lithium diisopropylamide | 2.0M | C(C)(C)[N-]C(C)C.[Li+]
reactant | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxyprolinal | 1.52 mmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.19 mmol, 1.6 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate water | C(C)(=O)OCC.O
solvent | Water | O | H2O
product | (2S,4R)-N-tert-Butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[1-hydroxy-2-(N-methylcarbamoyl)ethyl]pyrrolidine | 158 mg, yield: 25.9% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(CC(NC)=O)O | C19H38N2O5Si
